US07329678B2
2,2-dimethyl-N-(5-phenylpyridin-2-yl)propanamide (2.5 g, 9.83 mmol) was dissolved in 80 mL of dry THF and cooled to 0° C. N-Butyl lithium (2.5 M in hexanes) (9.8 mL, 24.57 mmol) was added slowly. The reaction mixture was stirred at 0° C. for 2 hours and then N,N-dimethylformamide (3.6 g, 49.15 mmol) was added. The reaction mixture was removed from the cold bath and allowed to warm to room temperature. After 30 minutes the reaction was quenched with water. The mixture was extracted with EtOAc and dried over MgSO4. The solvent was removed and the residue was chromatographed on silica gel eluting with hexanes/ethyl acetate (2:1) to afford N-(3-formyl-5-phenylpyridin-2-yl)-2,2-dimethylpropanamide (1.87 g).

reactant | 2,2-dimethyl-N-(5-phenylpyridin-2-yl)propanamide | 9.83 mmol, 2.5 g | CC(C(=O)NC1=NC=C(C=C1)C1=CC=CC=C1)(C)C | C16H18N2O
reactant | N,N-dimethylformamide | 49.15 mmol, 3.6 g | CN(C=O)C | C3H7NO
solvent | THF | 80 mL | C1CCOC1 | C4H8O
product | N-(3-formyl-5-phenylpyridin-2-yl)-2,2-dimethylpropanamide | 1.87 g | C(=O)C=1C(=NC=C(C1)C1=CC=CC=C1)NC(C(C)(C)C)=O | C17H18N2O2
